* D:\p4p\P4P_Project-130\LT_SPICE\Draft4.asc
C1 Vo V1 300n
D1 0 Vo D
D2 0 N004 D
C2 N012 0 900n
C3 Vo1 N012 900n
D3 N004 Vo1 D
C4 N001 V1 300n
D4 0 N001 D
C5 N003 0 300n
D5 N001 N003 D
D6 N003 N002 D
D7 N002 o D
C6 N002 N001 300n
C7 o N003 300n
Vin V1 0 SINE(0 10 50)
Vin1 N004 N012 SINE(0 10 50)
C8 N005 V1 1000p
C9 N009 0 1000p
C10 N006 N005 1000p
C11 N010 N009 1000p
C12 N007 N006 1000p
C13 N011 N010 1000p
C14 N008 N007 1000p
C15 output N011 1000p
D8 0 N005 D
D9 N005 N009 D
D10 N009 N006 D
D11 N006 N010 D
D12 N010 N007 D
D13 N007 N011 D
D14 N011 N008 D
D15 N008 output D
.model D D
.lib C:\Users\arnes\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 0 5 0 100
* Sim settings
* Half wave voltage doubler
* full wave voltage doubler
* 4x multiplier
* Cockcroft-Walton Multiplier
* Voltage settings
.backanno
.end
